US08486996B2
5,6-Dimethyl-3-amino-2-(2′-ethoxy-5′-fluorobenzoyl)-thieno[2,3-b]pyridine
A suspension of potassium carbonate (0.189 g, 1.37 mmol), 2-ethoxy-5-fluorophenacyl bromide (1.02 g, 3.95 mmol) and 5,6-dimethyl-2-mercaptonicotine nitrile (0.50 g, 3.04 mmol) in dry DMF (10 ml) is stirred at room temperature for 16 h. The resulting mixture is diluted with ethyl acetate and washed with water. Drying over sodium sulfate, filtering, evaporating the solvent and purification of the residue by silicagel column chromatography yields the title compound, having a m.p. of 170° C.

reactant | potassium carbonate | 1.37 mmol, 0.189 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-ethoxy-5-fluorophenacyl bromide | 3.95 mmol, 1.02 g | C(C)OC1=C(C(CBr)=O)C=C(C=C1)F | C10H10BrFO2
reactant | 5,6-dimethyl-2-mercaptonicotine nitrile | 3.04 mmol, 0.50 g | CC=1C(=NC(=C(C#N)C1)S)C | C8H8N2S
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5,6-Dimethyl-3-amino-2-(2′-ethoxy-5′-fluorobenzoyl)-thieno[2,3-b]pyridine | CC=1C=C2C(=NC1C)SC(=C2N)C(C2=C(C=CC(=C2)F)OCC)=O | C18H17FN2O2S
